US08957089B2
N′-[2-({1-[1-(4-Chlorophenyl)cyclobutyl]-4,4-dimethyl-1,2,3,4-tetrahydroisoquinolin-7-yl}oxy)ethyl]-N,N-diethylsulfuric diamide hydrochloride was prepared analogously to example 65 using N′-[2-({1-[1-(4-chlorophenyl)cyclobutyl]-4,4-dimethyl-3,4-dihydroisoquinolin-7-yl}oxy)ethyl]-N,N-diethylsulfuric diamide (68 mg, 0.13 mmol) and sodiumborohydride (10 mg, 0.26 mmol). Yield: 60 mg (0.11 mmol, 82%, colorless foam).

reactant | N′-[2-({1-[1-(4-chlorophenyl)cyclobutyl]-4,4-dimethyl-3,4-dihydroisoquinolin-7-yl}oxy)ethyl]-N,N-diethylsulfuric diamide | 0.13 mmol, 68 mg | ClC1=CC=C(C=C1)C1(CCC1)C1=NCC(C2=CC=C(C=C12)OCCNS(N(CC)CC)(=O)=O)(C)C | C27H36ClN3O3S
reactant | sodiumborohydride | 0.26 mmol, 10 mg | [BH4-].[Na+]
product | N′-[2-({1-[1-(4-Chlorophenyl)cyclobutyl]-4,4-dimethyl-1,2,3,4-tetrahydroisoquinolin-7-yl}oxy)ethyl]-N,N-diethylsulfuric diamide hydrochloride | Cl.ClC1=CC=C(C=C1)C1(CCC1)C1NCC(C2=CC=C(C=C12)OCCNS(N(CC)CC)(=O)=O)(C)C | InChI=1S/C27H38ClN3O3S.ClH/c1-5-31(6-2)35(32,33)30-16-17-34-22-12-13-24-23(18-22)25(29-19-26(24,3)4)27(14-7-15-27)20-8-10-21(28)11-9-20;/h8-13,18,25,29-30H,5-7,14-17,19H2,1-4H3;1H
